US06348474B1
6-Carboxy-3-methyl-1H-indazole
To chloroform (75 ml), which had been passed through an alumina column, was added boron trifluoride diethyl ether complex (3.75 g, 26.4 mmol) and the mixture was cooled at −12° C. A solution of 3-amino-4-ethylbenzoic acid (2.5 g, 15.1 mmol) in tetrahydrofuran (25 ml) was dropwise added thereto for 20 min. After the completion of the addition, t-butyl nitrite (1.87 g, 18.1 mmol) was added and the mixture was heated to 5° C. The mixture was stirred at 5° C. for 1.5 hr. Then potassium acetate (7.4 g, 75.4 mmol) and 18-crown-6-ether (400 mg, 1.51 mmol) were added and the mixture was stirred at room temperature for 40 hr. The brown reaction mixture was concentrated under reduced pressure. Ethyl acetate/acetone (7/3, 100 ml) and 1N hydrochloric acid (25 ml) was added to the residue and the mixture was stirred at room temperature for 1 hr. Saturated brine (25 ml) was added thereto. The insoluble matter was filtered off and the filtrate was partitioned. The water layers were extracted with ethyl acetate/acetone (7/3, 40 ml) and the combined organic layer was dried over anhydrous magnesium sulfate. The drying agent was filtered off and the filtrate was concentrated under reduced pressure. The obtained brown oil (4.3 g) was dissolved in ethyl acetate, and then hydrogen chloride-diethyl ether (61 of hydrogen chloride in 40 ml of ether) and diethyl ether (100 ml) were added. The precipitated solid was collected by filtration. The obtained solid was extracted with ethyl acetate/acetone (7/3, 100 ml) and saturated brine (25 ml), and the aqueous layer was further extracted with ethyl acetate. The combined organic layers were dried over anhydrous magnesium sulfate. The drying agent was filtered off and the filtrate was concentrated under reduced pressure. The obtained solid was washed with diethyl ether to give the objective compound (0.46 g, 17%) as brown crystals.

reactant | 3-amino-4-ethylbenzoic acid | 15.1 mmol, 2.5 g | NC=1C=C(C(=O)O)C=CC1CC | C9H11NO2
reactant | t-butyl nitrite | 18.1 mmol, 1.87 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | potassium acetate | 75.4 mmol, 7.4 g | C(C)(=O)[O-].[K+]
reactant | 18-crown-6-ether | 1.51 mmol, 400 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-Carboxy-3-methyl-1H-indazole | 0.46 g, 17% | C(=O)(O)C1=CC=C2C(=NNC2=C1)C | C9H8N2O2
